US04975460
2.71 g of methyl (2-aminoindan-5-yl)oxyacetate hydrochloride are added to a mixture of 80 ml of ethyl acetate, 40 ml of water and 415 mg of potassium carbonate and a solution of 2.11 g of 4-chlorophenylsulfonyl chloride in 40 ml of ethyl acetate is added dropwise thereto. The mixture is stirred for 2 hours and the ethyl acetate layer is separated. The ethyl acetate layer is washed successively with an aqueous 10% hydrochloric acid solution, an aqueous saturated sodium bicarbonate solution and an aqueous sodium chloride solution, dried and evaporated to remove solvent. 30 ml of methanol and 20 ml of 1N sodium hydroxide solution are added to the residue and the mixture is stirred at room temperature for 20 minutes. The reaction mixture is adjusted to pH 1 with an aqueous 10% hydrochloric acid solution and extracted with a mixture of chloroform and tetrahydrofuran. The extract is dried and evaporated to remove solvent. The residue is recrystallized from tetrahydrofuran-n-hexane-isopropyl ether to give 3.57 g of {2-[(4-chlorophenyl)sulfonylamino]indan-5-yl}oxyacetic acid as yellow prisms. Yield: 94% m.p. 170°-172° C.

reactant | methyl (2-aminoindan-5-yl)oxyacetate hydrochloride | 2.71 g | Cl.NC1CC2=CC=C(C=C2C1)OCC(=O)OC
reactant | water | 40 ml | O | H2O
reactant | potassium carbonate | 415 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 4-chlorophenylsulfonyl chloride | 2.11 g | ClC1=CC=C(C=C1)S(=O)(=O)Cl | C6H4Cl2O2S
solvent | ethyl acetate | 40 ml | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate | 80 ml | C(C)(=O)OCC | C4H8O2
product | {2-[(4-chlorophenyl)sulfonylamino]indan-5-yl}oxyacetic acid | 3.57 g, Yield: 94% | ClC1=CC=C(C=C1)S(=O)(=O)NC1CC2=CC=C(C=C2C1)OCC(=O)O | C17H16ClNO5S
